US04303655
To a solution of ethyl 2-(2-methylamino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-methylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (8 g.) in a mixture of pyridine (80 ml.) and methylene chloride (40 ml.) was dropwise added tert-pentyl chloroformate over 2 hours at -25° to -20° C. with stirring, and the mixture was stirred for 30 minutes at the same temperature. After the reaction, the reaction mixture was poured into water (200 ml.), the mixture was extracted with ethyl acetate (300 ml.), and then the organic layer was separated. The organic layer was washed with 2 N hydrochloric acid, water, 5% sodium bicarbonate aqueous solution and water in turn. The organic layer was dried over magnesium sulfate and then concentrated to give oil of ethyl 2-[2-(N-methyl-N-tert-pentyloxycarbonylamino)-1,3-thiazol-4-yl]acetate (14.5 g.).

reactant | ethyl 2-(2-methylamino-1,3-thiazol-4-yl)acetate | CNC=1SC=C(N1)CC(=O)OCC | C8H12N2O2S
reactant | ethyl 2-(2-methylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate | CN=C1SC=C(N1)CC(=O)OCC | C8H12N2O2S
reactant | tert-pentyl chloroformate | ClC(=O)OC(C)(C)CC | C6H11ClO2
reactant | water | 200 ml | O | H2O
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-[2-(N-methyl-N-tert-pentyloxycarbonylamino)-1,3-thiazol-4-yl]acetate | 14.5 g | CN(C(=O)OC(C)(C)CC)C=1SC=C(N1)CC(=O)OCC | C14H22N2O4S
